US06506738B1
To 4-(2-hydroxymethyl-benzoimidazol-1-yl)-butyronitrile, 68, (22 g, 102.2 mmol) suspended in CH2Cl2 (100 mL), thionyl chloride (15.81 g, 132.9 mmol) was slowly added with ice-water bath cooling. The ice bath was removed. The solution was stirred at room temperature for 1 hour and then evaporated. The residue was triturated with EtOAc to give a nearly quantitative yield of 4-(2-chloromethyl-benzoimidazol-1-yl)-butyronitrile, 69, as light gray powder.

reactant | 4-(2-hydroxymethyl-benzoimidazol-1-yl)-butyronitrile | OCC1=NC2=C(N1CCCC#N)C=CC=C2 | C12H13N3O
reactant | thionyl chloride | 132.9 mmol, 15.81 g | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-chloromethyl-benzoimidazol-1-yl)-butyronitrile | quantitative yield | ClCC1=NC2=C(N1CCCC#N)C=CC=C2 | C12H12ClN3
